US04775674
N-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]glycine ethyl ester
This compound, m.p. 274°-276° C., was prepared analogous to Example 15 from 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid and glycine ethyl ester.

reactant | 4-[(2,3-dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]butyric acid | O=C1NC=2C(=NC=3C=CC(=CC3C2)OCCCC(=O)O)N1 | C14H13N3O4
reactant | glycine ethyl ester | C(C)OC(CN)=O | C4H9NO2
product | N-[4-[(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)oxy]-1-oxobutyl]glycine ethyl ester | C(C)OC(CNC(CCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)=O)=O | C18H20N4O5
